US09145411B2
Step 1: Chloromethyl (3-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)-carbamate
To a 100 mL round bottom flask, 3-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)aniline (1.0 g, 0.0029 mol), 1,8-bis(dimethylamino)naphthalene (0.626 g, 0.0029 mol) and chloroform (60 mL) were added. The reaction mixture was cooled in an ice bath. To the same flask was added chloromethyl chloroformate (0.377 g, 0.0029 mol) and the mixture was stirred at room temperature for 3 hours. The reaction mixture was diluted with chloroform, washed with water and brine. The organic layer was dried over anhydrous sodium sulphate and evaporated under reduced pressure to provide the title compound as a yellow solid (1.25 g, 98.4%). 1H NMR (400 MHz, DMSO-d6): δ 10.41 (br s, 1H), 9.07 (d, J=2.0 Hz, 1H), 8.22 (d, J=2.0 Hz, 1H), 7.94 (br s, 1H), 7.62-7.51 (m, 3H), 6.01 (s, 2H), 4.98-3.98 (br s, 4H), 3.81 (t, J=4.4 Hz, 4H). LC-MS (ESI): Calculated mass: 433.07; Observed mass [M+H]+: 433.8 (RT: 1.63 min).

reactant | 3-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)aniline | 0.0029 mol, 1.0 g | ClC=1N=C(C2=C(N1)C=C(C=N2)C=2C=C(N)C=CC2)N2CCOCC2 | C17H16ClN5O
reactant | 1,8-bis(dimethylamino)naphthalene | 0.0029 mol, 0.626 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | chloromethyl chloroformate | 0.0029 mol, 0.377 g | ClC(=O)OCCl | C2H2Cl2O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
product | Chloromethyl (3-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)-carbamate | 1.25 g, 98.4% | ClC=1N=C(C2=C(N1)C=C(C=N2)C=2C=C(C=CC2)NC(OCCl)=O)N2CCOCC2 | C19H17Cl2N5O3
